US07037932B2
5-Fluoro-4-methoxy-1-benzothiophene
(2Z)-3-(3-Fluoro-2-methoxyphenyl)-2-mercapto-2-propenoic acid (4.865 g, 21.315 mmol) was added in one portion to a solution of iodine (8.255 g, 31.973 mmol) in dimethoxyetheane (30 mL). This was heated in the microwave with 300 W at 120° C. for 25 mins. After this time the reaction was allowed to cool to room temperature and poured onto saturated sodium metabisulphite (200 mL) and ether (400 mL). Ether layer was separated and product extracted with aqueous sodium hydroxide (2 N, 2×100 mL). This was then acidified to pH 2 with aqueous hydrochloric acid (2 N, 250 mL), and product extracted with ether (2×150 mL). The combined organic extracts were dried (MgSO4) and concentrated in vacuo to give a tan coloured solid (3.240 g, 14.322 mmol, 67%). Which was used without further purification in the next step. 5-Fluoro-4-methoxy-1-benzothiophene-2-carboxylic acid (0.883 g, 3.903 mmol) was added in one portion to DBU (2.04 mL, 13.661 mmol) and dimethyl acetamide (10 mL). This was heated in the microwave with 300 W at 200° C. for 1 h. Reaction was allowed to cool and poured onto water (100 mL). Product was extracted with hexane (2×100 mL), washed with aqueous hydrochloric acid (2 N, 50 mL), aqueous sodium hydroxide (2 N, 50 mL), and the combined organic extracts were dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography eluting silica gel with hexane:ethyl acetate [96:4] to give a pale yellow oil (0.167 g, 23%); δH (300 MHz, CDCl3) 7.60–6.80 (4H, m, Ar), 4.10 (3H, s, OCH3).

reactant | 5-Fluoro-4-methoxy-1-benzothiophene-2-carboxylic acid | 3.903 mmol, 0.883 g | FC=1C=CC2=C(C=C(S2)C(=O)O)C1OC | C10H7FO3S
reactant | DBU | 13.661 mmol, 2.04 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dimethyl acetamide | 10 mL | CC(=O)N(C)C | C4H9NO
product | 5-Fluoro-4-methoxy-1-benzothiophene | 0.167 g, 23% | FC=1C=CC2=C(C=CS2)C1OC | C9H7FOS
